US06589970B2
A mixture of benzyl-(6-methoxy-naphthalen-2-ylmethyl)-amine (1.3 g, 4.7 mmol), prepared in the previous step, 65 mL of 48% HBr and 50 mL of glacial acetic acid was refluxed under nitrogen for 19 h (overnight). The solvent was removed under reduced pressure to give a red solid. The solid was suspended in 250 mL of water and heated until most of the solid dissolved. The mixture was filtered, the filtrate made basic with sodium bicarbonate and extracted three times with ethyl acetate. The organic extracts were combined, dried (MgSO4) and the solvent removed under reduced pressure to give 6-(benzylamino-methyl)-naphthalen-2-ol (0.76 g, 62%) as a green solid, mp 120-122° C.

reactant | benzyl-(6-methoxy-naphthalen-2-ylmethyl)-amine | 4.7 mmol, 1.3 g | C(C1=CC=CC=C1)NCC1=CC2=CC=C(C=C2C=C1)OC | C19H19NO
reactant | HBr | 65 mL | Br | BrH
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 250 mL | O | H2O
product | 6-(benzylamino-methyl)-naphthalen-2-ol | 0.76 g, 62% | C(C1=CC=CC=C1)NCC=1C=C2C=CC(=CC2=CC1)O | C18H17NO
